US07183276B2
To a solution of 1-propylmercaptan (0.54 mL) in methanol (20 mL) was added sodium methoxide (1.1 g) and then methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate (1.5 g) was added. The mixture was stirred with heating under reflux for 30 min. The reaction mixture was concentrated, diluted with water, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[4-(4-chlorophenyl)-2-(1-propylsulfanyl)-5-oxazolyl]propionate was obtained from a fraction eluted with hexane-acetone (9:1, volume ratio). 2N Aqueous sodium hydroxide solution (5 mL) and methanol (15 mL) were added to this ester form, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water and acidified with 2N aqueous hydrochloric acid solution. The precipitated crystals were collected by filtration and recrystallized from isopropyl ether to give 3-[4-(4-chlorophenyl)-2-(1-propylsulfanyl)-5-oxazolyl]propionic acid (1.0 g, yield 63%) as colorless prism crystals. melting point: 128–129° C.

reactant | 1-propylmercaptan | 0.54 mL | C(CC)S | C3H8S
reactant | sodium methoxide | 1.1 g | C[O-].[Na+]
reactant | methyl 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionate | 1.5 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
solvent | methanol | 20 mL | CO | CH4O
product | methyl 3-[4-(4-chlorophenyl)-2-(1-propylsulfanyl)-5-oxazolyl]propionate | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)OC)SCCC | C16H18ClNO3S
